US08754229B2
Preparation of 4-amino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoro-3-methoxypicolinic acid (Compound 45)
Methyl 4-amino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoro-3-methoxypicolinate (0.77 g, 2.15 mmol) was dissolved in CH3OH (14 mL) and 2 N sodium hydroxide (NaOH; 4.3 mL) was added. The solution was stirred at room temperature overnight, acidified with 2 N HCl and concentrated to remove the majority of CH3OH. The precipitate that formed was filtered, washed with H2O and dried under vacuum to provide the title compound as a white solid (668 mg, 90%): mp 143-146° C.; 1H NMR (400 MHz, CDCl3) δ 7.30 (dd, J=8.5, 1.6 Hz, 1H), 7.19 (dd, J=8.4, 6.8 Hz, 1H), 4.83 (s, 2H), 4.07 (s, 3H), 4.02 (d, J=1.1 Hz, 3H); 19F NMR (376 MHz, CDCl3) δ −128.66, −128.74, −134.93, −135.01; ESIMS m/z 345 ([M+H]+), 343 ([M−H]−).

reactant | Methyl 4-amino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoro-3-methoxypicolinate | 2.15 mmol, 0.77 g | NC1=C(C(=NC(=C1F)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OC)OC | C15H13ClF2N2O4
reactant | sodium hydroxide | 2 N, 4.3 mL | [OH-].[Na+]
reactant | HCl | 2 N | Cl | ClH
solvent | CH3OH | 14 mL | CO | CH4O
product | 4-amino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-5-fluoro-3-methoxypicolinic acid | 668 mg, 90% | NC1=C(C(=NC(=C1F)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)O)OC | C14H11ClF2N2O4
